US07851626B2
rac-[(4S*,5R*)-4,5-Bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4-methyl-4,5-dihydro-imidazol-1-yl]-[4-(3-methanesulfonyl-propyl)-piperazin-1-yl]-methanone
In a manner analogous to the method described in example 5, rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4-methyl-4,5-dihydro-imidazole-1-carbonyl chloride was reacted with 1-(3-methanesulfonyl-propyl)-piperazine dihydrochloride (prepared as described in Fotouhi, N. et al. WO 2005110996) to give the title compound. LC-MS: 701.2 [(M+H)+]

reactant | rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4-methyl-4,5-dihydro-imidazole-1-carbonyl chloride | ClC1=CC=C(C=C1)C1(N=C(N(C1C1=CC=C(C=C1)Cl)C(=O)Cl)C1=C(C=C(C=C1)OC)OC(C)C)C | C27H25Cl3N2O3
reactant | 1-(3-methanesulfonyl-propyl)-piperazine dihydrochloride | Cl.Cl.CS(=O)(=O)CCCN1CCNCC1
product | rac-[(4S*,5R*)-4,5-Bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4-methyl-4,5-dihydro-imidazol-1-yl]-[4-(3-methanesulfonyl-propyl)-piperazin-1-yl]-methanone | ClC1=CC=C(C=C1)[C@@]1(N=C(N([C@@H]1C1=CC=C(C=C1)Cl)C(=O)N1CCN(CC1)CCCS(=O)(=O)C)C1=C(C=C(C=C1)OC)OC(C)C)C | C35H42Cl2N4O5S
